US07528160B2
(5-Hydroxy-indol-1-yl)-acetic acid ethyl ester
(5-Benzyloxy-indol-1-yl)-acetic acid ethyl ester (3.49 g, 11.31 mmol) is dissolved in EtOH (50 mL) and glacial acetic acid is added (2.0 mL). Palladium on carbon (20% by wt., 0.700 g) is then added to the homogenous solution, and a hydrogen filled balloon is connected to the round bottom flask. A vacuum is created within the flask until the ethanol began to bubble, and the hydrogen allowed to enter the flask; this procedure is repeated three times, then the reaction is left to stir at room temperature overnight. Upon completion, the reaction is diluted with DCM (200 mL), and water (100 mL) is added. The mixture is filtered through a celite plug and the two phases are separated. The organic layer is washed with brine (2×75 mL), then dried over anhydrous magnesium sulfate, and concentrated to yield the title compound (2.42 g) in 98% yield. The residual acetic acid is removed by flash column chromatography.

reactant | (5-Benzyloxy-indol-1-yl)-acetic acid ethyl ester | 11.31 mmol, 3.49 g | C(C)OC(CN1C=CC2=CC(=CC=C12)OCC1=CC=CC=C1)=O | C19H19NO3
reactant | acetic acid | C(C)(=O)O | C2H4O2
reactant | hydrogen | [H][H] | H2
solvent | EtOH | 50 mL | CCO | C2H6O
catalyst | Palladium on carbon | 0.700 g | [Pd] | Pd
solvent | ethanol | C(C)O | C2H6O
product | (5-Hydroxy-indol-1-yl)-acetic acid ethyl ester | 2.42 g, 98% yield | C(C)OC(CN1C=CC2=CC(=CC=C12)O)=O | C12H13NO3
